* Block 03: Compensation Network
* PVDD 5V LDO Regulator — SkyWater SKY130A
*
* Topology: Miller Cc + Rz from vout_gate to pvdd
*   + Output decoupling Cout from pvdd to gnd
*
.subckt compensation vout_gate pvdd gnd

* Miller cap: vout_gate → Cc → Rz → pvdd
* ~50 pF → W=158, L=158 → 49.9 pF
* Area: 24964 um^2
XCc vout_gate cc_mid sky130_fd_pr__cap_mim_m3_1 w=158 l=158 mf=1

* Nulling resistor: ~4.5 kOhm (LHP zero at ~707 kHz)
* R = Rsheet * L / W = 2000 * 9 / 4 = 4500 ohm
XRz cc_mid pvdd gnd sky130_fd_pr__res_xhigh_po w=4 l=9

* Output decoupling cap: pvdd → gnd
* ~50 pF supplements 200pF Cload, improves PM at all loads
* Area: 24964 um^2
XCout pvdd gnd sky130_fd_pr__cap_mim_m3_1 w=158 l=158 mf=1

.ends compensation
